US04572909
N-(2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetic acid hemihydrate
A solution of methyl N-(2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetate (2.40 g) in dioxane (80 ml) was treated with 1M aqueous sodium hydroxide solution (10 ml) and the mixture stirred at room temperature for 2 hours and then evaporated. The residue was purified by ion exchange chromatography (Bio-Rad AG 50W-X8, [Trade Mark], 200-400 mesh, cation form, 40 g) eluting with dioxane initially followed by 2% pyridine in water. Appropriate fractions were combined and evaporated to give the title compound as a hemihydrate (0.56 g), m.p. 140°-150° (decomp.).

reactant | methyl N-(2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetate | 2.40 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNCC(=O)OC)C(=O)OCC | C23H29ClN2O7
reactant | sodium hydroxide | 1M, 10 ml | [OH-].[Na+]
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | N-(2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetic acid hemihydrate | O.ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNCC(=O)O)C(=O)OCC.ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNCC(=O)O)C(=O)OCC | InChI=1S/2C22H27ClN2O7.H2O/c2*1-4-32-22(29)20-16(12-31-10-9-24-11-17(26)27)25-13(2)18(21(28)30-3)19(20)14-7-5-6-8-15(14)23;/h2*5-8,19,24-25H,4,9-12H2,1-3H3,(H,26,27);1H2
